US06093732
6-Iodo-8-fluoro-4-hydroxy-3-quinolinecarboxylic acid ethyl ester (903 mg) from Example No. 5 and o-tolueneboronic acid (374 mg) are dissolved in DMF (50 mL) and at 50° C. a solution of barium hydroxide octahydrate (1.18 g) in water (5 mL) is added followed by palladium tetrakistriphenylphosphine (58 mg). The mixture is heated at 80° C. for 20 h, allowed to cool to rt, poured into water (200 mL), and extracted with ethyl acetate (3×100 mL). The organic layer is washed with brine (25 mL), dried (MgSO4), and concentrated. The solid is then triturated with MTBE, and filtered to afford 382 mg of 6-(2-methylphenyl)-8-fluoro-4-hydroxy-3-quinoline-carboxylic acid ethyl ester. The crude ester is mixed with 4-chlorobenzylamine (380 mg) and is heated to 190° C. for 1 h. The mixture is diluted with toluene (4 mL), allowed to cool to rt, poured into a mixture of 50% acetic acid (10 mL) and 1 N hydrochloric acid (25 mL), and is extracted with ethyl acetate (3×25 mL). The organic layer is dried (MgSO4) and allowed to crystallize. Recrystallization from acetic acid/water affords 166 mg of the title compound.

reactant | 6-Iodo-8-fluoro-4-hydroxy-3-quinolinecarboxylic acid ethyl ester | 903 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1O)I)F | C12H9FINO3
reactant | o-tolueneboronic acid | 374 mg | C=1(C(=CC=CC1)B(O)O)C | C7H9BO2
reactant | barium hydroxide octahydrate | 1.18 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 5 mL | O | H2O
solvent | water | 200 mL | O | H2O
product | 6-(2-methylphenyl)-8-fluoro-4-hydroxy-3-quinoline-carboxylic acid ethyl ester | 382 mg | C(C)OC(=O)C=1C=NC2=C(C=C(C=C2C1O)C1=C(C=CC=C1)C)F | C19H16FNO3
